US05258382
Preparation of 2-(pyrrol-1-yl)malonic acid dibenzyl ester:
To a solution of 2-(pyrrol-1-yl)malonic acid diethyl ester (75.7 g) in benzyl alcohol (200 ml) was added tetraethyl titanate (3.0 g), and the resulting mixture was stirred at 110° C. for 15 hours. After removal of the benzyl alcohol under reduced pressure, the residue was chromatographed on silica gel using n-hexane/ethyl acetate (10:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (102.5 g, 87.3%) as colorless crystals, mp 48.5°-49° C.

reactant | 2-(pyrrol-1-yl)malonic acid diethyl ester | 75.7 g | C(C)OC(C(C(=O)OCC)N1C=CC=C1)=O | C11H15NO4
reactant | benzyl alcohol | 200 ml | C(C1=CC=CC=C1)O | C7H8O
catalyst | tetraethyl titanate | 3.0 g | CCO.CCO.CCO.CCO.[Ti]
product | 2-(pyrrol-1-yl)malonic acid dibenzyl ester | 102.5 g, 87.3% | C(C1=CC=CC=C1)OC(C(C(=O)OCC1=CC=CC=C1)N1C=CC=C1)=O | C21H19NO4
